US07285572B2
ethyl 5-bromothiophene-2-carboxylate
5-Bromothiophene-2-carboxylic acid (5.40 g) was dissolved in ethanol (50 ml), 4-dimethylaminopyridine (3.82 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (6.0 g) were successively added, and the mixture was stirred overnight at room temperature. Water was added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed successively with water, 10% aqueous citric acid (twice), water, saturated aqueous sodium hydrogencarbonate and brine, and dried over sodium sulfate. The organic layer was concentrated under reduced pressure to give the title compound (5.99 g).

reactant | 5-Bromothiophene-2-carboxylic acid | 5.40 g | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 6.0 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | Water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | 4-dimethylaminopyridine | 3.82 g | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl 5-bromothiophene-2-carboxylate | 5.99 g | BrC1=CC=C(S1)C(=O)OCC | C7H7BrO2S
